US07547691B2
2-{5-Bromo-2-[2-(2,2,6,6-tetramethylpiperidin-4-ylidene)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 2-(2,2,6,6-tetramethylpiperidin-4-ylidene)-ethylamine and isolated as a yellow solid. ES+(m/z) 554 (79Br) and 556 (81Br) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C
reactant | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C16H11BrClN3OS
reactant | 2-(2,2,6,6-tetramethylpiperidin-4-ylidene)-ethylamine | CC1(NC(CC(C1)=CCN)(C)C)C | C11H22N2
product | 2-{5-Bromo-2-[2-(2,2,6,6-tetramethylpiperidin-4-ylidene)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCC=C2CC(NC(C2)(C)C)(C)C | InChI=1S/C27H32BrN5OS.2ClH/c1-26(2)13-16(14-27(3,4)33-26)10-11-29-25-30-15-20(28)23(32-25)22-12-19-18(6-5-7-21(19)35-22)24(34)31-17-8-9-17;;/h5-7,10,12,15,17,33H,8-9,11,13-14H2,1-4H3,(H,31,34)(H,29,30,32);2*1H
